US07157447B2
4-Fluoro-2-(2-oxopyrrolidin-1-yl)benzonitrile.
A 48 mL pressure vessel containing 2-bromo-4-fluorobenzonitrile (1.00 g, 5.00 mmol), 2-pyrrolidinone (0.46 mL, 6.00 mmol), Cs2CO3 (2.28 g, 7.0 mmol) and 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene (xantphos) (0.231 g, 0.40 mmol) in dioxane (6 mL) was degassed with argon for 15 min. Pd2 dba3 was introduced and the reaction mixture heated at 105° C. for 48 h. The mixture was cooled, diluted with ethyl acetate or dioxane, and then filtered through Celite. The resulting mixture was concentrated in vacuo and subjected to column chromatography on silica gel with hexanes:ethyl acetate (3:7) gradient as the eluent to afford the title compound as a white solid (0.887 g, 87% yield): 1H NMR (400 MHz, CDCl3) δ ppm: 7.69 (1H, dd, J=5.8, 8.6 Hz), 7.22 (1H, dd, J=2.5, 9.6 Hz), 7.07 (1H, ddd, J=2.5, 7.6, 8.6 Hz), 3.96 (2H, t, J=7.0 Hz), 2.62 (2H, t, J=8.1 Hz), 2.30–2.22 (2H, m); LCMS (+ESI, M+H+) m/z 205.

reactant | 2-bromo-4-fluorobenzonitrile | 5.00 mmol, 1.00 g | BrC1=C(C#N)C=CC(=C1)F | C7H3BrFN
reactant | 2-pyrrolidinone | 6.00 mmol, 0.46 mL | N1C(CCC1)=O | C4H7NO
reactant | Cs2CO3 | 7.0 mmol, 2.28 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | dioxane | 6 mL | O1CCOCC1 | C4H8O2
catalyst | 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene | 0.40 mmol, 0.231 g | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
product | 4-Fluoro-2-(2-oxopyrrolidin-1-yl)benzonitrile | 0.887 g, 87% yield | FC1=CC(=C(C#N)C=C1)N1C(CCC1)=O | C11H9FN2O
